US06534546B1
Synthesis of 2-t-butoxycarbonylamino-3-(4-nitrophenyl)propionic acid
A 2 N aqueous sodium hydroxide solution (12.3 ml) and di-t-butyl dicarbonate (6.36 g) were added to a mixture of 4-nitrophenylalanine (5.35 g), 1,4-dioxane (80 ml) and water (40 ml) under cooling with ice and stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the resulting residue was diluted with ethyl acetate and washed successively with 2 N HCl and water; the organic layer was dried with anhydrous sodium sulfate and the solvent was concentrated under reduced pressure. The resulting residue was recrystallized from a mixture of ethyl acetate and n-hexane to give the titled compound quantitatively.

reactant | sodium hydroxide | 2 N, 12.3 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 6.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-nitrophenylalanine | 5.35 g | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | 2-t-butoxycarbonylamino-3-(4-nitrophenyl)propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H18N2O6
